US08895745B2
1-(3-{7-[3-(2-Methyl-oxetan-2-yl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea
2-(3-Bromophenyl)-2-methyloxetane may be coupled with 1-{3-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea according to procedure E3.

reactant | 2-(3-Bromophenyl)-2-methyloxetane | BrC=1C=C(C=CC1)C1(OCC1)C | C10H11BrO
reactant | 1-{3-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | CC1(OB(OC1(C)C)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C | C22H24BF3N4O3
product | 1-(3-{7-[3-(2-Methyl-oxetan-2-yl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea | CC1(OCC1)C=1C=C(C=CC1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C26H23F3N4O2
